US08735577B2
In a stream of argon, 2.58 g (9.09 mmol) of 2-(4-bromophenyl) quinoline was dissolved in 20 mL of tetrahydrofuran. To the thus-obtained solution, 6.01 mL of a solution in hexane of 9.70 mmol of butyllithium was dropwise added at −78° C. The resultant mixture was stirred at −78° C. for 15 minutes, and then 2.45 g (9.70 mmol) of dichloro(tetramethylethylene-diamine)zinc(II) was added. Temperature of the resultant mixture was elevated to room temperature, and stirred for 1.5 hours. The resultant mixture, and 1.50 g (3.03 mmol) of 2-(3,5-dibromophenyl)-4,6-di-p-tolyl-1,3,5-triazine, and 420 mg (0.364 mmol) of tetrakis(triphenylphosphine)palladium were suspended in 30 mL of tetrahydrofuran, and the obtained suspension was heated under reflux with stirring for 15 hours. The reaction mixture was cooled to room temperature, and was then distilled under a reduced pressure to remove low boiling ingredients. Methanol was added to the concentrate and the thus-deposited solid was filtered. The thus-obtained crude product was purified by silica gel chromatography using a methanol/chloroform (1:100-2:100) mixed liquid as a developing solvent to give 2.03 g of the target 2-[4,4″-di(2-quinolyl)-1,1′:3′,1″-terphenyl-5-yl]-4,6-di-p-tolyl-1,3,5-triazine as a white solid (yield: 90%).

reactant | 2-(4-bromophenyl) quinoline | 9.09 mmol, 2.58 g | BrC1=CC=C(C=C1)C1=NC2=CC=CC=C2C=C1 | C15H10BrN
reactant | butyllithium | 9.70 mmol | C(CCC)[Li]
reactant | 2-(3,5-dibromophenyl)-4,6-di-p-tolyl-1,3,5-triazine | 3.03 mmol, 1.50 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C23H17Br2N3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.364 mmol, 420 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4,4″-di(2-quinolyl)-1,1′:3′,1″-terphenyl-5-yl]-4,6-di-p-tolyl-1,3,5-triazine | yield: 90% | N1=C(C=CC2=CC=CC=C12)C1=CC=C(C=C1C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC(=CC=C1)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C=C1 | C53H37N5
